US04450167
Using the procedure of Example 11, ethyl 4-hydroxy-2-methyl-3-quinoline-carboxylate [described in J. Het. Chem., Vol. 16 (1979), p. 1605] and p-anisidine in xylene were refluxed for 24 hours to obtain 4-hydroxy-N-(4-methoxyphenyl)-2-methyl-3-quinoline-carboxamide melting at 222° C.

reactant | ethyl 4-hydroxy-2-methyl-3-quinoline-carboxylate | OC1=C(C(=NC2=CC=CC=C12)C)C(=O)OCC | C13H13NO3
reactant | p-anisidine | COC1=CC=C(C=C1)N | C7H9NO
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 4-hydroxy-N-(4-methoxyphenyl)-2-methyl-3-quinoline-carboxamide | OC1=C(C(=NC2=CC=CC=C12)C)C(=O)NC1=CC=C(C=C1)OC | C18H16N2O3
